US04031226
A mixture of 7.7 parts of 1-(2-thienylcarbonyl)aziridine, 10.8 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 54 parts of benzene and 8 parts of methanol is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and trichloromethane is added. The undissolved product is filtered off and stirred in 2,2'-oxybispropane. It is filtered off again and crystallized twice: first from a mixture of methanol and N,N-dimethylformamide and then from a mixture of trichloromethane and methanol, yielding 4 parts of N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-thiophenecarboxamide; mp. + 300° C (dec.).

reactant | 1-(2-thienylcarbonyl)aziridine | S1C(=CC=C1)C(=O)N1CC1 | C7H7NOS
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-thiophenecarboxamide | O=C1NC2=C(N1C1CCN(CC1)CCNC(=O)C=1SC=CC1)C=CC=C2 | C19H22N4O2S
